US08557992B2
To a solution of 6-fluoronicotinic acid (0.995 g, 7.05 mmol) in 14 mL of DMSO was added sodium thiomethoxide (1.24 g, 17.6 mmol). The mixture was heated 80° C. for 1 h, cooled to rt, and treated with concentrated hydrochloric acid (4.5 mL, 0.054 mol). After 15 min, the mixture was diluted with ethyl acetate and concentrated in vacuo to provide 6-(methylthio)nicotinic acid that gave a mass ion (ES+) of 170.1 for [M+H]+.

reactant | 6-fluoronicotinic acid | 7.05 mmol, 0.995 g | FC1=NC=C(C(=O)O)C=C1 | C6H4FNO2
reactant | sodium thiomethoxide | 17.6 mmol, 1.24 g | C[S-].[Na+]
reactant | hydrochloric acid | 0.054 mol, 4.5 mL | Cl | ClH
solvent | DMSO | 14 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(methylthio)nicotinic acid | CSC1=NC=C(C(=O)O)C=C1 | C7H7NO2S
